Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:9]([H:10])([H:11])[H:12].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],1.44937726529
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.613702594059999
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],3.5558463016000004
[H:1][O:2][C:3][C:4]#[C:5][H:6].[O:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10],-0.4607694222899999
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.3054422742
[O:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[C:3]#[C:4][C:5][C:6]([H:7])[H:8].[O:1]=[C:2],2.5833892166
[C:3]=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-9.26786016156
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-1.16523763044
[H:1][C:2]#[C:3][H:4].[O:5][H:6]>>[H:1][C:2]=[C:3]([H:4])[O:5][H:6],-2.96833782401
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[O:8][H:9].[H:5],5.237379078409999
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.614122775299999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:10]([H:11])[H:12],6.310569908300001
[C:2]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])#[C:14][H:15].[H:1][C:3]([H:16])[H:17]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.42425448704
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],4.68193455916
[H:1][O:2][C:3]([H:4])[C:13]([C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])([H:14])[H:15]>>[H:1][O:2][C@:3]1([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],-2.46115592366
[C:3][H:4].[O:1]=[C:2][O:5][H:6]>>[O:1]=[C:2]([C:3][H:4])[O:5][H:6],-5.43195876651
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.97162020216
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.97584487977
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][C:4]#[C:5][H:6].[H:7],3.8469125286
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5][H:6],6.983190614189999
[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7][H:8]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-5.82698913123
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13].[O:1],4.04529828599
[C:1][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[C:2]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-6.939704384760001
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-3.62034524977
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6],0.8115703561
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.92437014368
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.07514922856
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],0.812739326706
[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.14256732466
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[C:5]([H:6])[O:7][C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4],5.5679735622000015
